US08058299B2
(R)-1-(4-{5-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-pyridin-2-yl}-benzoyl)-pyrrolidine-2-carboxylic acid tert-butyl ester (37 mg) from above was treated with 2 mL of trifluoroacetic acid and stirred at room temperature for one hour. The reaction was concentrated and the product was lyophilized to give 27 mg of (R)-1-(4-{5-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-pyridin-2-yl}-benzoyl)-pyrrolidine-2-carboxylic acid as a white powder. LCMS calcd for C28H21F3N4O5 (m/e) 550, obsd 551 (M+H).

reactant | (R)-1-(4-{5-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-pyridin-2-yl}-benzoyl)-pyrrolidine-2-carboxylic acid tert-butyl ester | 37 mg | C(C)(C)(C)OC(=O)[C@@H]1N(CCC1)C(C1=CC=C(C=C1)C1=NC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1)=O | C32H29F3N4O5
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (R)-1-(4-{5-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-pyridin-2-yl}-benzoyl)-pyrrolidine-2-carboxylic acid | 27 mg | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)NC=1C=CC(=NC1)C1=CC=C(C(=O)N2[C@H](CCC2)C(=O)O)C=C1)C(F)(F)F | C28H21F3N4O5
